US07470723B2
To a solution of 7-bromo-3,4-dihydro-2H-benzo[b][1,4]dioxepine (1.7 g, 7.4 mmol) in THF (10 mL) was added a solution of n-butyllitium in hexane (2.6 mL, 2.5 N, 6.5 mmol) at −78° C. and kept for 20 min. To the mixture was added a solution of 3,5-dimethoxy-benzaldehyde (1.0 g, 6.0 mmol) in THF (10 mL) at −78° C. After 2 h, isopropanol (2 mL) and water (10 mL) was added to the mixture, and the cold bath was removed. The mixture was stirred at room temperature for 20 min. The mixture was extracted with ethyl acetate (50 mL) and water (50 mL). The aqueous layer was extracted with ethyl acetate (50 mL). The combined organic layers was washed with HCl (1N, 50 mL), water (50 mL), brine (50 mL) and dried over MgSO4. Removal of solvent and chromatography (Silica Gel) gave (3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-(3,5-dimethoxy-phenyl) -methanol as an oil (1.8 g, 95% yield): 1H NMR (CDCl3) δ 2.16-2.22 (m, 2H, CH2), 3.77 (s, 6H, 2CH3), 4.16-4.21 (m, 4H, 2CH2), 5.67 (d, J=3 Hz, 1H, CH), 6.35 (t, J=2 Hz, 1H, Ar), 6.54 (d, J=2 Hz, 1H, Ar), 6.92 (d, J=1 Hz, 2H, Ar), 6.98 (s, 1H, Ar).

reactant | 7-bromo-3,4-dihydro-2H-benzo[b][1,4]dioxepine | 7.4 mmol, 1.7 g | BrC1=CC2=C(OCCCO2)C=C1 | C9H9BrO2
reactant | n-butyllitium | C(CCC)[Li]
reactant | hexane | 6.5 mmol, 2.5 N, 2.6 mL | CCCCCC | C6H14
reactant | 3,5-dimethoxy-benzaldehyde | 6.0 mmol, 1.0 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | (3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-(3,5-dimethoxy-phenyl) -methanol | 1.8 g, 95% yield | O1C2=C(OCCC1)C=C(C=C2)C(O)C2=CC(=CC(=C2)OC)OC | C18H20O5
